US04931455
Synthesis of dl-5-chloro-6-ethyl-4-(1-ethyl-7-acetylaminoheptyl)aminopyrimidine (Compound No. 102)
In 10 ml of chloroform were dissolved 0.55 g of dl-5-chloro-6-ethyl-4-(1-ethyl-7-aminoheptyl)aminopyrimidine and 0.25 g of triethylamine, and under ice cooling, 0.18 g of acetyl chloride was added to the solution and the mixture was stirred for one hour. After completion of the reaction, the reaction mixture was extracted with chloroform. After the organic layer was dried over anhydrous sodium sulfate, the solvent was removed under reduced pressure. The resulting oily product was isolated through a column chromatography (Wako gel C-200, trade name, eluent; ethyl acetate) to give 0.20 g of the title compound as pale yellow oily product. nD22.4 1.5296.

reactant | dl-5 chloro-6-ethyl-4-(1-ethyl-7-aminoheptyl)aminopyrimidine | 0.55 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.ClC1=NC(=CC(=N1)NC(CCCCCCN)CC)CC
reactant | triethylamine | 0.25 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.18 g | C(C)(=O)Cl | C2H3ClO
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | dl-5 chloro-6-ethyl-4-(1-ethyl-7-acetylaminoheptyl)aminopyrimidine | 0.20 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.ClC1=NC(=CC(=N1)NC(CCCCCCNC(C)=O)CC)CC | InChI=1S/C18H34N4O2.C17H29ClN4O/c1-24-18-14-16(6-7-17(18)23)15-22-13-5-12-21-10-3-2-9-20-11-4-8-19;1-4-14(10-8-6-7-9-11-19-13(3)23)20-16-12-15(5-2)21-17(18)22-16/h6-7,14,20-23H,2-5,8-13,15,19H2,1H3;12,14H,4-11H2,1-3H3,(H,19,23)(H,20,21,22)
